US06559172B1
Preparation of 1-((R)-1-Phenyl-ethyl)-4-thiophen-3-yl-1H-imidazole
(R)-1-Phenyl-ethylamine (1.5 equivalents), glyoxylic acid (1.3 equivalents) and K2CO3 (2.5 equivalents) are combined in DMF. After 3h, add the 3-[1-isocyano-1-(toluene-4-sulfonyl)-methyl]-thiophene (1 equivalent) and stir the reaction at RT for 18 h. Pour the reaction mixture into brine and extract with Et2O. Dry the combined organic extracts over K2CO3 and isolate the desired product by flash chromatography.

reactant | (R)-1-Phenyl-ethylamine | 1.5 equivalents | C1(=CC=CC=C1)[C@@H](C)N | C8H11N
reactant | glyoxylic acid | 1.3 equivalents | C(C=O)(=O)O | C2H2O3
reactant | K2CO3 | 2.5 equivalents | C(=O)([O-])[O-].[K+].[K+]
reactant | 3-[1-isocyano-1-(toluene-4-sulfonyl)-methyl]-thiophene | 1 equivalent | [N+](#[C-])C(S(=O)(=O)C1=CC=C(C=C1)C)C1=CSC=C1 | C13H11NO2S2
solvent | DMF | CN(C)C=O | C3H7NO
solvent | brine | [Cl-].[Na+].O
product | 1-((R)-1-Phenyl-ethyl)-4-thiophen-3-yl-1H-imidazole | C1(=CC=CC=C1)[C@@H](C)N1C=NC(=C1)C1=CSC=C1 | C15H14N2S
